US06521643B1
A suspension of 3-(4-ethoxypyridin-2-yl)nitrobenzene (0.3 g) in ethanol (6 ml) was hydrogenated over palladium on carbon (10% w/w, 50% wet, 0.2 g) under a hydrogen atmosphere for 3 hours. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure to give 3-(4-ethoxypyridin-2-yl)aniline (0.264 g).

reactant | 3-(4-ethoxypyridin-2-yl)nitrobenzene | 0.3 g | C(C)OC1=CC(=NC=C1)C=1C=C(C=CC1)[N+](=O)[O-] | C13H12N2O3
solvent | ethanol | 6 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | 3-(4-ethoxypyridin-2-yl)aniline | 0.264 g | C(C)OC1=CC(=NC=C1)C=1C=C(N)C=CC1 | C13H14N2O
